US07781479B2
4,5,6,7-Tetrahydro-1H-benzimidazol-2-yl[4-(trifluoromethyl)phenyl]methanone
The compound of Reference example 44-1 (3.13 g, 25.6 mmol) and 4-(trifluoromethyl)benzoyl chloride (10.0 g, 47.9 mmol) were dissolve in pyridine (20 ml) and the solution was stirred at room temperature. Therein was dropped triethylamine (4.85 g, 47.9 mmol) and the mixture was stirred for 4 hours at 60° C. Thereto was added 4N aqueous sodium hydroxide solution (20 ml) and the mixture was stirred for 3 hours at room temperature. The reaction mixture was neutralized with 1N diluted hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the residue was recrystallized from toluene to give the subject compound (5.24 g, 70%).

reactant | 4-(trifluoromethyl)benzoyl chloride | 47.9 mmol, 10.0 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 47.9 mmol, 4.85 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 4N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4,5,6,7-Tetrahydro-1H-benzimidazol-2-yl[4-(trifluoromethyl)phenyl]methanone | 5.24 g, 70% | N1C(=NC2=C1CCCC2)C(=O)C2=CC=C(C=C2)C(F)(F)F | C15H13F3N2O
